US09029391B2
5-Benzyloxy-2-bromo-benzoic acid methyl ester
To a solution of 2-Bromo-5-hydroxy-benzoic acid methyl ester (80 g, 347 mmol) and K2CO3 (71.9 g, 520 mmol) in DMF (800 mL) was added BnBr (500 g, 416.2 mmol) at RT. The mixture was stirred at RT under N2 for 5 hr. The reaction mixture was diluted with H2O (500 mL) and extracted with ethyl acetate (100 mL*3). The organic phase was washed with saturated sodium bicarbonate solution 500 mL, dried over Na2SO4. After concentration, the crude product was purified by silica gel chromatography eluted with PE:EA=4:1 to give title product (100 g, 90% yield) as an off-white solid.

reactant | 2-Bromo-5-hydroxy-benzoic acid methyl ester | 347 mmol, 80 g | COC(C1=C(C=CC(=C1)O)Br)=O | C8H7BrO3
reactant | K2CO3 | 520 mmol, 71.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | BnBr | 416.2 mmol, 500 g | C1=CC=C(C=C1)CBr | C7H7Br
reactant | EA | CC(OCC)=O | C4H8O2
solvent | DMF | 800 mL | CN(C)C=O | C3H7NO
solvent | H2O | 500 mL | O | H2O
product | 5-Benzyloxy-2-bromo-benzoic acid methyl ester | 100 g, 90% yield | COC(C1=C(C=CC(=C1)OCC1=CC=CC=C1)Br)=O | C15H13BrO3
